US06562814B2
A mixture of benzhydryl-isothiocyanate (13.75 g), N-methyl aminooxy acetic acid hydrochloride (8.6 g), triethylamine (16 g) and chloroform (200 mL) was heated at reflux for three hours, stirred at ambient temperature for one hour. The mixture was diluted with chloroform (200 mL) and washed with 2N HCl (2×300 mL) then with water (300 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness to give a solid. The solid was stirred in ether (200 mL) and filtered to give 18.8 g of [[[[(benzhydryl)amino]thioxomethyl]methylamino]oxy]acetic acid as a white solid, m.p. 160-162° C. Mass spectrum (−FAB, [M−H]−) m/z 329. 1H-NMR (DMSO-d6; 400 MHz) δ13.55 (br s, 1H), 9.75 (d, 1H), 7.35-7.23 (m, 10H), 6.63 (d, 1H), 4.63 (s, 2H), and 3.42 ppm (s, 3H).

reactant | benzhydryl-isothiocyanate | 13.75 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N=C=S | C14H11NS
reactant | N-methyl aminooxy acetic acid hydrochloride | 8.6 g | Cl.CNOCC(=O)O
reactant | triethylamine | 16 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | [[[[(benzhydryl)amino]thioxomethyl]methylamino]oxy]acetic acid | 18.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=S)N(OCC(=O)O)C | C17H18N2O3S
